US05977178
At 0° C., trifluoroacetic acid (4 ml) was added to a solution of N-((1R)-1-(N-((1R)-1-benzyl-2-((methylsulfonyl)amino)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester (997 mg, 1.8 mmol) in dichloromethane (4 ml). The solution was stirred for 15 min at 0° C. The solvent was removed in vacuo at 20° C. The residue was dissolved in dichloromethane and the solvent was removed in vacuo. The latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (45 g), using dichloromethane/methanol/25% aqueous ammonia as eluent, to give 646 mg of N-((2R)-2-(N-methyl-N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)amino)-3-phenylpropyl)methanesulfonamide.

reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-((1R)-1-(N-((1R)-1-benzyl-2-((methylsulfonyl)amino)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester | 1.8 mmol, 997 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](CNS(=O)(=O)C)CC1=CC=CC=C1)=O)=O | C30H39N3O5S
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-((2R)-2-(N-methyl-N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)amino)-3-phenylpropyl)methanesulfonamide | 646 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@@H](CNS(=O)(=O)C)CC1=CC=CC=C1 | C25H31N3O3S
